************************************************
** VLSI bipolar_aSiCCuTiN model
************************************************

************************************************
** v1.1, 17/05/2016
************************************************
** Author: Fernando García-Redondo
** fgarcia@die.upm.es, fernandeando.com
** Technical University of Madrid
**
** https:**github.com/fgr1986/vlsi_memristor_compact_model
** http:**vlsi.die.upm.es/memristor_spice_model
************************************************

************************************************
** License:
** Copyright of the model is maintained by the developers,
** and the model is distributed under a Dual-Licence mode.
** 1) GPL License apply for academic purposes.
** If you use this model in your work, you are requested to cite [1] in the reference.
** GitHub Repository and Downloads
** 2) Commercial license for other purposes not meeting GPL license: Contact *fgarcia@die.upm.es*
** Full License: LICENSE.txt
**
** [1] SPICE Compact Modeling of Bipolar/Unipolar Memristor Switching Governed by Electrical Thresholds
** Fernando García-Redondo et. al.
** IEEE Transactions on Circuits and Systems--I: Regular Papers
** 2016, DOI: 10.1109/TCSI.2016.2564703
************************************************

************************************************
** How to
** 1) Select the corresponding model
** 2) Select the input depending on the desired model
** 3) Run with LTSpice (see test_bench additional files)
************************************************

.SUBCKT memristor Plus Minus PARAMS:
	+pi=3.1415926 Kb=1.38e-23 q=1.6e-19
	+eps0=8.85e-12 area=6.4e-9 d=4e-8 sclp=5 scln=7 AAp=2.4e6 AAn=1e6 Ub=0.9 epsr=8
	+Ron=300 T0=300 ktemp=1 cI=1e-4 ronp=6.1k ronn=8.5k epsi=epsr*eps0
	+pthset=3e-12 pthreset=-0.8e-8
	+voff=0 von=1e-7

	**IF(V(Plus, Minus)>0,V(Plus, Minus)*abs(I(Gcond)),0))
	Eposinstpower p1 0 value={IF(V(Plus,Minus)>0,I(Gcond)*V(Plus,Minus),0)}
	Eneginstpower p2 0 value={IF(V(Plus,Minus)<0,I(Gcond)*V(Plus,Minus),0)}
	Epospower pp 0 value={idt(V(p1),0)}
	Enegpower np 0 value={idt(V(p2),0)}
	Esetth    st 0 value={(floor( V(np)/pthreset ) + 1 )*pthset}
	Eresetth  rt 0 value={floor( V(pp)/pthset )*pthreset}
	Estate    s  0 value={ IF(V(s)==voff, IF(V(pp)>V(st), von, voff ), IF( V(np)<V(rt), voff, von ) )}

	Eon   on 0 value={V(Plus, Minus)}
	Ronp  on 0 r=ronp
	Ronn  on 0 r=ronn

	Goffp 0 offp value={ area*AAp*ktemp*(T0**2)*exp(-q*Ub/(Kb * T0))*exp( sqrt(abs(V(Plus, Minus)))*(sclp + q / (Kb * T0) * ( sqrt(q / (d * 4 * pi * epsi)))) ) }
	Goffn 0 offn value={-area*AAn*ktemp*(T0**2)*exp(-q*Ub/(Kb * T0))*exp( sqrt(abs(V(Plus, Minus)))*(scln + q / (Kb * T0) * ( sqrt(q / (d * 4 * pi * epsi)))) ) }
	Raux1 offp 0 r=1k
	Raux2 offn 0 r=1k

	Gcond Plus Minus value={ max( -cI, min(cI, IF(V(s)==voff, IF( V(Plus, Minus)>0, I(Goffp), I(Goffn) ), IF( V(Plus, Minus)>0, I(Ronp), I(Ronn) ) ) ) ) }

	************************
	**  event counters
	************************
	* E_p_events p_events 0 value={floor( V(tpp)/p_th_3_4 )}
	* E_n_events n_events 0 value={floor( V(tnp)/p_th_2_1 )}
	Ecycle  cycle  0 value={floor( V(pp)/pthreset )}
	EsEvent sEvent 0 value={floor( V(pp)/pthreset ) + floor( V(np)/pthset ) }

.ENDS memristor
